US06127420
L-Ornithine HCl (1.68 g, 10 mmol) and cupric acetate (0.5 g, 10 mmol) were dissolved in water (20 ml) and stirred for 10 minutes at room temperature. The solution was then filtered to remove minor impurities and cooled to 0° C., and the pH was adjusted to 9.5 by addition of cold 10% NaOH. 3-Butenyl imidate (15 mmol), prepared separately from the corresponding nitrile, methanol and gaseous HCl by the method described in Scannell, J. P., J. Antibiot. 25, 179-184 (1972) was then added, and the mixture was allowed to stir at pH 9.0-9.5 for 1 hour at 0° C. and for 2 hours at room temperature. The pH was then adjusted to 7.4 with cold dilute HCl, and the mixture was stirred at room temperature overnight. Hydrogen sulfide gas was bubbled through the solution, and the resulting copper sulfide precipitate was removed by filtration through charcoal. The filtrate was passed through Chelex to remove any residual Cu2+, and the clear solution was evaporated to dryness by rotary evaporation under reduced pressure. The residue was washed with ethyl acetate, and the product was crystallized from ethanol to give pure N5 -(1-imino-3-butenyl)-L-ornithine, which may be referred to as L-VNIO--m.p. 162° C. (dec); H NMR(D2O) ; δ1.65-2.1 (m, 4H), 3.3 (d, 2H), 3.4 (t, 2H), 3.8 (t, 1H), 5.4 (m, 2H), and 5.95 (m, 1H); 13C NMR (D2O): δ25.43, 30.35, 39.37, 44.28, 56.93, 124.16, 131.55, 168.72, and 176.98; FABMS (fast atom bombardment mass spectrometry): m/e 200 (M+H). Examples below establish L-VNIO as the first neuronal isoform selective, mechanism-based amino acid inactivator of NOS.

reactant | L-Ornithine HCl | 10 mmol, 1.68 g | Cl.N[C@@H](CCCN)C(=O)O
reactant | methanol | CO | CH4O
reactant | HCl | Cl | ClH
solvent | water | 20 ml | O | H2O
product | N5 -(1-imino-3-butenyl)-L-ornithine | N=C(CC=C)NCCC[C@H](N)C(=O)O | C9H17N3O2
